US05834506
3-(2-tert-Buty-4-hydroxymethyl-5-methyl-phenylsulfanyl)-4-hydroxy-6,6-bis-[2-(4-hydroxyphenyl)ethyl]-5,6-dihydro-pyran-2-one
The title compound was prepared as described in General Method 9 using 0.14 g (0.39 mmol) of 4-hydroxy-6,6-bis [2-(4-hydroxyphenyl)ethyl]-5,6-dihydro-pyran-2-one (prepared in Example PP), 0.19 g (0.52 mmol) of toluene-4-thiosulfonic acid S-(2-tert-butyl-4-hydroxymethyl-5-methyl-phenyl) ester (prepared in Example FFF), 0.22 g (1.6 mmol) of K2CO3, and 3 mL of DMF. The solution was stirred overnight at room temperature. Purification by silica gel chromatography, eluting with CH2Cl2 :MeOH (100:0 to 90:10), gave the title compound, m.p. 192°-194° C. 1H NMR (DMSO-d6) δ 1.48 (s, 9 H), 1.83 (s, 3 H), 2.02 (m, 4 H), 2.54 (m, 4 H), 2.96 (br s, 2 H), 4.35 (br s, 2 H), 4.94 (br s, 1 H), 6.68 (m, 5 H), 6.99 (dd, 4 H), 7.26 (s, 1 H), 9.16 (s, 2 H).

reactant | 4-hydroxy-6,6-bis [2-(4-hydroxyphenyl)ethyl]-5,6-dihydro-pyran-2-one | 0.39 mmol, 0.14 g | OC1=CC(OC(C1)(CCC1=CC=C(C=C1)O)CCC1=CC=C(C=C1)O)=O | C21H22O5
reactant | toluene-4-thiosulfonic acid S-(2-tert-butyl-4-hydroxymethyl-5-methyl-phenyl) ester | 0.52 mmol, 0.19 g | C(C)(C)(C)C1=C(C=C(C(=C1)CO)C)SS(=O)(=O)C1=CC=C(C=C1)C | C19H24O3S2
reactant | K2CO3 | 1.6 mmol, 0.22 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 3-(2-tert-Buty-4-hydroxymethyl-5-methyl-phenylsulfanyl)-4-hydroxy-6,6-bis-[2-(4-hydroxyphenyl)ethyl]-5,6-dihydro-pyran-2-one | C(C)(C)(C)C1=C(C=C(C(=C1)CO)C)SC=1C(OC(CC1O)(CCC1=CC=C(C=C1)O)CCC1=CC=C(C=C1)O)=O | C33H38O6S
